US08461164B2
To a solution of 1.27 g (7 mmol) 2-chloro-4-(1,1-difluoro)ethylpyridine (Preparation 4) in TFA was added 30% hydrogen peroxide (6 mL) and the solution was heated at reflux for 2.5 h. The TFA was removed in vacuo and the residue poured into ice-cold H2O. The mixture was neutralized with Na2CO3 and extracted with EtOAc and CH2Cl2. The pooled organic layers were dried (Na2SO4), filtered and concentrated in vacuo to give 2-chloro-4-(1,1-difluoroethyl)-pyridine 1-oxide (1.00 g) as a brown oil: 1H NMR (CDCl3): δ 8.39 (d, J=6.6 Hz, 1H), 7.63 (d, J=2.4 Hz, 1H), 7.33 (dd, J=6.6, 2.4 Hz, 1H), 1.94 (t, J=18 Hz, 3H); EIMS m/z 193 ([M]).

reactant | 2-chloro-4-(1,1-difluoro)ethylpyridine | 7 mmol, 1.27 g | ClC1=NC=CC(=C1)C(C)(F)F | C7H6ClF2N
reactant | hydrogen peroxide | 6 mL | OO | H2O2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-chloro-4-(1,1-difluoroethyl)-pyridine 1-oxide | 1.00 g | ClC1=[N+](C=CC(=C1)C(C)(F)F)[O-] | C7H6ClF2NO
